US07977351B2
[5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-5,7-dihydro-furo[3,4-b]pyridin-2-yl]-acetaldehyde
A solution of 3-[2-(2,2-dimethoxy-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-5-fluoro-1,3-dihydro-indol-2-one (52 mg, 0.16 mmol) in THF (5 ml) is treated with 0.63 mL of an aqueous 2.5 M sulfuric acid solution (0.63 mL). The reaction mixture is heated to 60° C. for 1 h, cooled to room temperature and poured into 100 mL ice water with stirring. The brown solid which precipitated is collected by filtration, washed with water, and dried under vacuum to give the title compound as brown solid (27 mg, 54%).

reactant | 3-[2-(2,2-dimethoxy-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 0.16 mmol, 52 mg | COC(CC1=CC=C2C(=N1)COC2=C2C(NC1=CC=C(C=C21)F)=O)OC | C19H17FN2O4
reactant | sulfuric acid | 2.5 M, 0.63 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | [5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-5,7-dihydro-furo[3,4-b]pyridin-2-yl]-acetaldehyde | 27 mg, 54% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CC=O | C17H11FN2O3
